US04788206
As in Example 134, a solution of (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (4.3 g) and 3-pyridinebutanamine (1.51 g) in tetrahydrofuran (20 mL) was stirred for 1.5 hours at room temperature and was worked up in the usual fashion. The crude product was crystallized from ethyl acetate-hexane to provide 3.6 g of (E)-5,5-bis(4-methoxyphenyl)-N-[4-(3-pyridinyl) butyl]-2,4-pentadienamide mp 76°-77° C.

reactant | (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 4.3 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C25H21NO6
reactant | 3-pyridinebutanamine | 1.51 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(4-methoxyphenyl)-N-[4-(3-pyridinyl) butyl]-2,4-pentadienamide | 3.6 g | COC1=CC=C(C=C1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC=C(C=C1)OC | C28H30N2O3
